US05183653
m-Isothiocyanatophenylboronic Acid
To a cooled (0° C.) solution of 3-aminophenylboronic acid (2.24 g, 0.013 mol) in acetone (5 ml) was added dropwise a solution of thiophosgene (1 ml, 0.013 mol) in chloroform (5 ml) over a period of 0.5 hour. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 12 hours. The solvent was evaporated on a rotary evaporator and the residue was triturated with ether and filtered to remove the triethylamine hydrochloride. The ether solution was evaporated to a brown oil. This was chromatographed on silica gel (30 g) using acetone-chloroform (7:3) as eluent. Fractions containing the product were collected and evaporated to give a light brown solid. This solid was crystallized from ethyl acetate/hexane. M.P. 166°-67° C. Anal. Calcd. for C7H6NSBO2O: C, 46,00; H,3.59; N, 7.67; S, 17.54. Found: C, 46.17; H, 3.48; N, 7.59; S, 17.71.

reactant | 3-aminophenylboronic acid | 0.013 mol, 2.24 g | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | thiophosgene | 0.013 mol, 1 ml | C(=S)(Cl)Cl | CCl2S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | m-Isothiocyanatophenylboronic Acid | N(=C=S)C=1C=C(C=CC1)B(O)O | C7H6BNO2S
